US06358980B1
Methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(4-methoxyphenyl)sulfonyl]-4-piperidinecarboxylate
To a solution of 4-(4-but-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid methyl ester (500 mg, 1.29 mmol) in methylene chloride (10 ml) was added triethylamine (261 mg, 2.58 mmol), 4-methoxyphenylsulfonyl chloride (320 mg, 1.55 mmol) followed by a catalytic amount of dimethylaminopyridine. The resulting mixture was stirred for 15 hours at room temperature, quenched with water and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and concentrated to give 590 mg (88%) of the product as a solid. HR-MS: m/z Calculated for C24H72NO8S2 522.1251; Found 522.1252.

reactant | 4-(4-but-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid methyl ester | 1.29 mmol, 500 mg | COC(=O)C1(CCNCC1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C17H21NO5S
reactant | triethylamine | 2.58 mmol, 261 mg | C(C)N(CC)CC | C6H15N
reactant | 4-methoxyphenylsulfonyl chloride | 1.55 mmol, 320 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(4-methoxyphenyl)sulfonyl]-4-piperidinecarboxylate | 590 mg, 88% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)OC | C24H27NO8S2
